US07482358B2
Production of the Optical Active (5S)-2-(3-cyanophenyl)-4-(4-fluorophenyl)-4-(6-fluoro-3-pyridyl)-5-methyl-2-imidazoline
3-Cyanobenzoic acid (84 mg), triethylamine (159 μL) and. 2-chloro-1,3-dimethylimidazolinium chloride—dichloromethane 25% solution (212 μL) were added to a solution of (2S)-1-(4-fluorophenyl)-1-(6-fluoro-3-pyridyl)-1,2-propanediamine (100 mg) described in Reference Example 5-1 in chloroform (3 mL) in this order at 0° C. Then temperature of the mixture was raised to room temperature, and the mixture was stirred for 15 minutes. Saturated sodium hydrogen carbonate aqueous solution was added to the reaction mixture, and then the mixture was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. Sodium sulfate was removed by filtration, and the organic solvent was evaporated in vacuo. The obtained crude product was stirred at 130° C. for 15 hours. The obtained oil was purified by silica gel column chromatography (C-300; hexane: ethyl acetate=1:1) to give the objective compound (140 mg).

reactant | 3-Cyanobenzoic acid | 84 mg | C(#N)C=1C=C(C(=O)O)C=CC1 | C8H5NO2
reactant | 2-chloro-1,3-dimethylimidazolinium chloride dichloromethane | [Cl-].ClC1[NH+](CCN1C)C.ClCCl
reactant | (2S)-1-(4-fluorophenyl)-1-(6-fluoro-3-pyridyl)-1,2-propanediamine | 100 mg | FC1=CC=C(C=C1)C([C@H](C)N)(N)C=1C=NC(=CC1)F | C14H15F2N3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 3 mL | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 159 μL | C(C)N(CC)CC | C6H15N
product | (5S)-2-(3-cyanophenyl)-4-(4-fluorophenyl)-4-(6-fluoro-3-pyridyl)-5-methyl-2-imidazoline | 140 mg | C(#N)C=1C=C(C=CC1)C=1N[C@H](C(N1)(C=1C=NC(=CC1)F)C1=CC=C(C=C1)F)C | C22H16F2N4
